US08404649B2
Preparation 51: 4-Bromomethyl-naphthalene-1-carboxylic acid methyl ester
To a stirred solution of 4-methyl-naphthalene-1-carboxylic acid methyl ester (Preparation 50, 10.85 g, 54.18 mmol) in CCl4 (500 mL) was added N-bromosuccinamide (9.93 gm, 55.81 mmol) followed by AIBN (0.1 g, 0.612 mmol) at room temperature. Resulting reaction mixture was refluxed for 3 hours. Progress of reaction was monitored by TLC using 5% EtOAc in hexane. Rf of new spot and starting material was 0.8 and 0.7 respectively. After consumption of starting material, reaction mixture was concentrated in vacuo to residue. Residue was dissolved in EtOAc (300 mL) and washed with water (2×300 mL), brine (300 mL), dried over sodium sulphate and evaporated in vacuo to get pale yellow semisolid. Crude was purified by column chromatography using 100-200 mesh silica gel. Desired product was eluted in 4% EtOAc in hexane to afford white solid (10.5 g, 69.39%). 1H NMR (400 MHz, CDCl3) δ: 4.00 (s, 3H), 4.93 (s, 2H), 7.56 (d, J=7.48 Hz, 1H), 7.62-7.68 (m, 2H), 8.06 (d, J=7.4 Hz, 1H), 8.17-8.20 (m, 1H), 8.90-8.93 (m, 1H).

reactant | 4-methyl-naphthalene-1-carboxylic acid methyl ester | 54.18 mmol, 10.85 g | COC(=O)C1=CC=C(C2=CC=CC=C12)C | C13H12O2
reactant | N-bromosuccinamide | 55.81 mmol, 9.93 gm | BrNC(CCC(=O)N)=O | C4H7BrN2O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CCl4 | 500 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | hexane | CCCCCC | C6H14
catalyst | AIBN | 0.612 mmol, 0.1 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 4-Bromomethyl-naphthalene-1-carboxylic acid methyl ester | 10.5 g, 69.39% | COC(=O)C1=CC=C(C2=CC=CC=C12)CBr | C13H11BrO2
